US06479704B1
U.S. Pat. No. 6,005,143 discloses a process for the adiabatic hydrogenation of dinitrotoluene in a monolith catalyst employing nickel and palladium as the catalytic metals. A single phase dinitrotoluene/water mixture in the absence of solvent is cycled through the monolith catalyst under plug flow conditions for producing toluenediamine.

reactant | dinitrotoluene | [N+](=O)([O-])C=1C(=C(C=CC1)C)[N+](=O)[O-] | C7H6N2O4
reactant | dinitrotoluene water | [N+](=O)([O-])C=1C(=C(C=CC1)C)[N+](=O)[O-].O
catalyst | nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
product | toluenediamine | C1(=C(C(=CC=C1)N)N)C | C7H10N2
